US05200422
1,3-dihydro-1-(5-chloro-2-hydroxyphenyl)-5-trifluoromethyl-2H-benzimidazol-2-thione.
2-amino-N-(5-chloro-2-hydroxyphenyl)-4-trifluoromethyl-aniline (0.51 g, 1 5 mmol), triethylamine (0.28 ml, 2 mmol) and thiocarbonyl diimidazol (0.36 g, 2 mmol) was dissolved in dry tetrahydrofuran (15 ml) and the mixture was stirred for 30 minutes. The reaction mixture was evaporated in vacuo. The residue was redissolved in ethanol and water and light petroleum were added. The precipitate was isolated and was purified by column chromatography on silica gel with ether/light petroleum (2:1) as eluent. Yield of title compound was 200 mg, M.p. 248°-250° C.

reactant | 2-amino-N-(5-chloro-2-hydroxyphenyl)-4-trifluoromethyl-aniline | 5 mmol, 0.51 g | NC1=C(NC2=C(C=CC(=C2)Cl)O)C=CC(=C1)C(F)(F)F | C13H10ClF3N2O
reactant | triethylamine | 2 mmol, 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | thiocarbonyl diimidazol | 2 mmol, 0.36 g | C(=S)(C=1NC=CN1)C=1NC=CN1 | C7H6N4S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1,3-dihydro-1-(5-chloro-2-hydroxyphenyl)-5-trifluoromethyl-2H-benzimidazol-2-thione | ClC=1C=CC(=C(C1)N1C(NC2=C1C=CC(=C2)C(F)(F)F)=S)O | C14H8ClF3N2OS
